US04489003
49 g (0.226 mol) of 4,5-dichloroisatin are suspended in 200 ml of acetic acid and 200 ml of acetic anhydride, treated over a period of 50 minutes at a temperature between 80° and 90° with 37.65 g (0.376 mol) of chromium trioxide and the mixture is subsequently cooled to 5°. The precipitated material is filtered off under suction, washed with water and dried. There is obtained 5,6-dichloroisatoic acid anhydride of melting point 280°-283°.

reactant | 4,5-dichloroisatin | 0.226 mol, 49 g | ClC1=C2C(C(NC2=CC=C1Cl)=O)=O | C8H3Cl2NO2
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | chromium trioxide | 0.376 mol, 37.65 g | [O-2].[O-2].[O-2].[Cr+6]
product | 5,6-dichloroisatoic acid anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1Cl | C8H3Cl2NO3
